2194-06-14 08:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2194-6-13**] 04:52 PM
 MULTI LUMEN - START [**2194-6-13**] 05:01 PM
 URINE CULTURE - At [**2194-6-13**] 08:00 PM
 ARTERIAL LINE - START [**2194-6-14**] 12:09 AM
   - Urine output improved to 20ccs per hour
   - More conscious this morning, responding to questioning.
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-6-13**] 06:50 PM
   Ciprofloxacin - [**2194-6-13**] 07:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-14**] 06:02 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-6-13**] 08:30 PM
   Fentanyl - [**2194-6-14**] 05:30 AM
   Midazolam (Versed) - [**2194-6-14**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-14**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 80 (67 - 100) bpm
   BP: 132/55(80) {121/51(72) - 141/61(87)} mmHg
   RR: 27 (23 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.2 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 10 (0 - 315)mmHg
   Total In:
                                                                  1,405 mL
                                                                    668 mL
   PO:
   TF:
   IVF:
                                                                  1,345 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                     93 mL
                                                                    302 mL
   Urine:
                                                                     43 mL
                                                                    202 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,312 mL
                                                                    366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/33/185/21/-3
   Ve: 12.1 L/min
   PaO2 / FiO2: 463
   Physical Examination
   Eyes: (Conjunctiva and lids: WNL)
   Ears, Nose, Mouth and Throat: (Oral mucosa: WNL, ET tube in place),
   (Teeth, gums and palette: WNL)
   Neck: (Right carotid artery: No bruit), (Left carotid artery: No
   bruit), (Thyroid / Neck: Right IJ in place, dressing clean dry and
   intact)
   Back / Musculoskeletal: (Chest wall structure: WNL)
   Respiratory: (Effort: Mechanical Ventilation), (Auscultation: Mild [**Hospital1 **]
   basilar crackles, no wheezes,good air movement)
   Cardiac: (Rhythm: Regular), (Palpation / PMI: WNL), (Auscultation: S1:
   WNL, S2: physiologic, S3: Absent, S4: Absent), (Murmur / Rub: Absent)
   Abdominal / Gastrointestinal: (Bowel sounds: Abnormal, decreased),
   (Bruits: No), (Pulsatile mass: No), (Hepatosplenomegaly: No)
   Genitourinary: (Foley catheter with scant urine)
   Extremities / Musculoskeletal: (Digits and nails: WNL), (Muscle
   strength and tone: Unable to asses strength, tone normal), (Edema:
   Right: 0, Left: 0), (Extremity details: No significant lower extremity
   edema)
   Skin: ( WNL)
   Labs / Radiology
   351 K/uL
   9.1 g/dL
   129 mg/dL
   2.7 mg/dL
   21 mEq/L
   4.1 mEq/L
   46 mg/dL
   100 mEq/L
   134 mEq/L
   26.7 %
   18.0 K/uL
        [image002.jpg]
                             [**2194-6-13**]  04:56 PM
                             [**2194-6-13**]  06:07 PM
                             [**2194-6-13**]  09:00 PM
                             [**2194-6-13**]  11:47 PM
                             [**2194-6-14**]  12:00 AM
                             [**2194-6-14**]  12:06 AM
                             [**2194-6-14**]  02:25 AM
                             [**2194-6-14**]  03:57 AM
                             [**2194-6-14**]  04:08 AM
                             [**2194-6-14**]  06:03 AM
   WBC
   20.1
   18.0
   Hct
   30.1
   26.7
   Plt
   377
   351
   Cr
   2.5
   2.7
   TropT
   0.82
   3.54
   TCO2
   21
   21
   21
   21
   17
   22
   21
   Glucose
   467
   129
   Other labs: PT / PTT / INR:14.0/67.0/1.2, CK / CKMB /
   Troponin-T:7559/120/3.54, ALT / AST:117/172, Alk Phos / T Bili:141/0.6,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:4.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:541 IU/L, Ca++:7.8
   mg/dL, Mg++:2.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 year old female with known CAD, diastolic CHF, HTN, DM,
   dyslipidemia, presents to OSH ED complaining of SOB, arrived in
   extremus and respiratory failure requiring intubation, tachycardic with
   likely SVT with aberrancy, new reduced EF, leukocytosis, four quadrant
   air space opacities on CXR, and relative hypotension concerning for
   distributive vs. cardiogenic shock.
   .
   CORONARIES: Pt with known CAD, initial enzymes at OSH negative, though
   now rising with CK 1872
 7559, in setting of a single 150J shock at
   OSH and no clear ischemic EKG changes.  Pt also with new globally
   reduced EF on bedside echo at OSH and here which may be secondary to
   concurrent acidosis/extreme critical illness.  Most likely not ACS.
   - Can d/c heparin drip as ACS appears unlikely (low MB index, troponin
   rise not unexpected in setting of sepsis)
   - start SC heparin
   - Continue Aspirin daily
   - Continue statin
   - start BB once more hemodynamically stable
   - Trend cardiac enzymes to peak CK
   - Repeat 12 lead EKG in AM
   - Consider cardiac cath once more clinically stable for further
   evaluation
   .
   PUMP: Pt with history of diastolic CHF, now with reduced EF on bedside
   TTE as above, mixed picture ACS/sepsis and metabolic acidosis given
   lactate of 7.0 at OSH and rising cardiac enzymes. MAPs in mid 50's on
   arrival, but patient started on low dose levophed overnight for low
   blood pressures and nadir of 74/38 after initation of fentanyl/versed
   for sedation.  CVP on arrival 12.  Central venous O2 sat 87 on
   admission now 99.  Globally reduced EF [**1-20**] acidosis vs. acute aschemia
   (w/ rising troponins).
   - Formal TTE in AM
   - Responded well to fluid bolus, maintain CVP ~15.
   - Hold on further diuresis with Lasix for now given borderline blood
   pressures and CVP of 12 with low urine output on admission; unclear if
   patient responded to IV Lasix dose given at OSH
   - Hold all antihypertensives for now
   .
   RHYTHM: Currently in sinus rhythm, HR 70's. At OSH was found to be
   tachycardic with wide complex tachycardia felt to be SVT with aberrancy
   based on 12 lead EKG. Pt was shocked x 1 at OSH and loaded with
   amiodarone upon transfer.
   - d/c amiodarone drip
   - beta blockers as needed for rate control as BP tolerates.
   .
   RESPIRATORY FAILURE: CXR showing diffuse fluffly pulmonary infiltrates
   concerning for ARDS. Continue A/C mechanical ventilation with low tidal
   volume strategy and PEEP to support increased lung resistance.  Doing
   well with wean.
   - Goal pH >7.3
   - If oxygenation continues to improve with FiO2< 60%, wean down PEEP
   .
   ID: Possible sepsis given leukocytosis, with suspected urinary source,
   though pulmonary source could also be present given increased RLL
   infiltrate on CXR.  Urine legionella negative.
   - Fontinue broad spectrum antibiotic coverage with Vanc/Zosyn/Cipro for
   double gram negative coverage.  Recent hospital and rehab stay makes
   hospital acquired organisms possible.
   - Abdominal ultrasound in AM to evaluate for abscess or other potential
   intraabdominal source of infection
   - F/U blood and urine cultures
   - f/u OSH cultures.
   .
   ACUTE on CHRONIC RENAL FAILURE: Pt with baseline cr of 1.7, 2.0 at OSH
   earlier today, now 2.5 and oliguric, likely related to pre-renal
   hypoperfusion in setting of severe systemic illness and reduced EF.
   UOP improved somewhat after small IVF bolus increasing to > 20 cc/hr
   overnight
   - Continue to trend creatinine
   - Follow UOP and consider additional small volume IVF bolus
   - Image kidneys with abdominal ultrasound as above
   - f/u Urine lytes
   .
   DIABETES MELLITUS: Pt with significantly elevated blood sugars at OSH
   and on admission.  Patient with history of type II DM and at risk for
   hyperosmolar non-ketotic hyperglycemia, though currently blood glucoses
   not ranging above 600.
   - f/u serum ketones
   - IV insulin drip following [**Last Name (un) 72**] protocol to keep serum glucose <150
   - monitor blood glucose q1 hour
   .
   METABOLIC ACIDOSIS: Pt with large gap metabolic acidosis, initial
   lactate at OSH 7, on arrival here improved to 3.2.  Given elevated
   blood sugars, may also be in DKA, though patient with history of type
   II DM, and DKA less likely.   Serum ketones pending. Pt is s/p 1 amp
   sodium bicarb at OSH.  Gap closed this morning, appears to have largely
   resolved.
   - Continue mechanical ventilation and will slowly decrease
   hyperventilation for respiratory compensation.
   - Continue empiric treatment for sepsis as above with continued
   supportive care
   .
   TRANSAMINITIS: Pt with elevated transaminases on admission, likely
   consistent with global critical illness and possibly related to shock
   liver/hypoperfusion.
   - Continue trending LFTs and coags for now
   - Keep MAP > 65 to maintain end organ perfusion
   .
   FEN: Hyponatremia: falsely low given elevated blood glucose on arrival
   with improvement after correction of hyperglycemia.  NPO for now.
   - F/u nutrition recs for TF
   .
   ACCESS: PIV's/IJ
   PROPHYLAXIS:
   -DVT ppx with IV Heparin
   -GI ppx with IV protonix
   CODE: Full (confirmed with son)
   DISPO: CCU for now
   CONTACT: [**Name (NI) **]- [**Name (NI) **] [**Name (NI) 2576**] [**Telephone/Fax (1) 7319**], Dtr [**Name (NI) 107**] (HCP)
   [**Telephone/Fax (1) 7320**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-6-13**] 05:01 PM
   18 Gauge - [**2194-6-13**] 05:02 PM
   20 Gauge - [**2194-6-13**] 05:02 PM
   Arterial Line - [**2194-6-14**] 12:09 AM
   Prophylaxis:
   DVT: begin s/c heparin
   Stress ulcer:
   VAP:  raised HOB.
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 7297**].
   I would add the following remarks:
   History
   74 yr old womand with DM and prior [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] [**2189**], CRI Cr 1.7 transferred
   after presenting with resp failure.
   Cardioverted at OSH for wide complex tachycardia which appears to be
   SVT with aberrancy superimposed on chronic LBBB.
   CXR with diffuse patchy infiltrates.
   WBC 20, Cr 2.7, CK 7559, mb 120.
   Echo with diffuse hypo, EF 30%.
   Difficulty with oxygenation requiring high O2 and PEEP better
   overnight.
   Urine output better after NS.
   Physical Examination
   CVP 12 incr 17 after fluids.
   Intubated alert.
   Diffuse bibasilar rales.
   Medical Decision Making
   Continue antibiotics for what appears to be ARDS probably related to
   PNA.
   Continue IV fluids.
   OK to stop heparin.
   [**Month (only) 8**] transfer to MICU svc.
   Does not appear to be ACS.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2194-6-14**] 10:36 ------

2194-06-15 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2194-6-14**] 09:20 AM
 URINE CULTURE - At [**2194-6-14**] 08:00 PM
 EKG - At [**2194-6-14**] 09:13 PM
 SPUTUM CULTURE - At [**2194-6-14**] 09:53 PM
 NASAL SWAB - At [**2194-6-15**] 03:20 AM
   [**6-14**]
   -2102 Called to bedside for tachycardia to 120's.  12-lead shows narrow
   QRS complex.  Given 5mg IV Metoprolol IVP with minimal effect on HR and
   brought BP from 90's/60's to 80's/40's.  Hypotension responded to fluid
   bolus.  Tachycardia broke with suctioning ETT.
   -2235: Spoke to radiology re abd u/s.  Showed trace fluid RUQ CBD WNL.
   -2333: Transfusing 1 unit pRBC for crit of 23 in light of elevated
   trop, ischemic disease and hypotension.
   [**6-15**]
   -0355 Called to bedside for tachycardia to 120's with stable BP
   130's/80's.  Tachycardia broke with suctioning.
   -0450 Called to bedside for tachycardia to high 120's with stable BP
   140-150/80's.  EKG showed SVT attempted to break with suctioning but
   unsuccessful.  Pt given 5mg IV Metoprolol.  Rate to 70's with BP
   120's/50's.
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-6-13**] 06:50 PM
   Ciprofloxacin - [**2194-6-14**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-15**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 80 mcg/hour
   Insulin - Regular - 2.5 units/hour
   Other ICU medications:
   Fentanyl - [**2194-6-14**] 07:16 PM
   Heparin Sodium (Prophylaxis) - [**2194-6-15**] 12:00 AM
   Metoprolol - [**2194-6-15**] 04:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-15**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.6
C (97.8
   HR: 75 (69 - 132) bpm
   BP: 130/54(80) {88/38(56) - 141/89(323)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.2 kg (admission): 115 kg
   Height: 67 Inch
    CVP:
   Total In:
                                                                  1,917 mL
                                                                    532 mL
   PO:
                                                                     20 mL
   TF:
   IVF:
                                                                  1,840 mL
                                                                    280 mL
   Blood products:
                                                                     38 mL
                                                                    253 mL
   Total out:
                                                                    997 mL
                                                                    210 mL
   Urine:
                                                                    887 mL
                                                                    210 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.38/39/123/22/-1
   Ve: 9.4 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   8.2 g/dL
   133 mg/dL
   2.7 mg/dL
   22 mEq/L
   4.5 mEq/L
   53 mg/dL
   103 mEq/L
   136 mEq/L
   24.7 %
   13.3 K/uL
        [image002.jpg]
                             [**2194-6-14**]  03:57 AM
                             [**2194-6-14**]  04:08 AM
                             [**2194-6-14**]  06:03 AM
                             [**2194-6-14**]  09:01 AM
                             [**2194-6-14**]  11:22 AM
                             [**2194-6-14**]  02:30 PM
                             [**2194-6-14**]  07:05 PM
                             [**2194-6-14**]  08:14 PM
                             [**2194-6-15**]  01:29 AM
                             [**2194-6-15**]  03:10 AM
   WBC
   18.0
   13.2
   13.3
   Hct
   26.7
   23.4
   24.7
   Plt
   [**Telephone/Fax (3) 7361**]
   Cr
   2.7
   2.7
   2.7
   TropT
   2.39
   2.05
   TCO2
   22
   21
   21
   22
   19
   23
   24
   Glucose
   129
   132
   133
   Other labs: PT / PTT / INR:13.5/28.6/1.2, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:152/165, Alk Phos / T Bili:100/0.7,
   Amylase / Lipase:143/15, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:569 IU/L, Ca++:7.7 mg/dL, Mg++:2.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 TACHYCARDIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ASSESSMENT AND PLAN
   74 year old female with known CAD, diastolic CHF, HTN, DM,
   dyslipidemia, presented to OSH ED complaining of SOB, arrived in
   extremus and respiratory failure requiring intubation, tachycardic with
   likely SVT with aberrancy, new reduced EF, leukocytosis, four quadrant
   air space opacities on CXR, and relative hypotension concerning for
   distributive shock.
   .
   # Repiratory failure: CXR initially concerning for ARDS, though no
   clear etiology.  CXR this morning without clear infiltrate.  Per son,
   patient is "prone" to pneumonia, so this is most likely source of
   possible septic/distributive shock. Also, with significant leukocytosis
   which may be from infection vs stress reaction. Requiring PEEPs >10 to
   maintain oxygenation, but has been able to wean significantly since
   admission.  Patient was alert and awake on transfer to MICU, denies
   fever prior to admission, though son states she was "cold" on the days
   leading up to admission. Urine legionella negative.
   - Continue A/C mechanical ventilation with low tidal volume strategy
   and PEEP to support increased lung resistance.
   - Goal pH >7.3
   - Continue to wean ventilation, will consider decreased PEEP now that
   FiO2 is at 40% and oxygenating well
   - Continue to treat for HCAP w/ zosyn, vanc, cipro as had been in house
   in [**Month (only) 8**] and rehab facility up until 3 weeks ago
   - Daily CXR
   - Trend WBC
   - Send sputum culture, follow up blood and urine cultures
   - Follow up cultures from OSH ([**Last Name (un) 2491**])
 Need to call their lab today.
   - Consider CT torso if no improvement to assess for
   intraabdominal/thoracic source of infection
   # Coronary artery disease: Has history of CAD w/ DES to LAD, now with
   significant troponin leak in the setting of SVT w/ abberancy and shock
   at OSH.  Per cardiology, this is most likely not consistent w/ ACS and
   patient has completed 24H of heparin gtt. MBI not significantly
   elevated.  Likely myocardial stunning/ischemia in the setting of
   sepsis, critical illness and profound acidemia (lactate 7.0 at OSH).
   No clear new ischemic ECG changes.
   - Continue to trend CE until downtrending
   - Continue ASA daily
   - Continue statin
   - BB when HD stable
   - Cards consult prn
   # Global LV systolic HF: Patient now w/ globally reduced EF on TTE with
   elevated CE as above.  Has history of dCHF.  Has been weaned off of
   levophed while in the CCU and has not required fluids to maintain CVP.
   BPs now stable.  Likely [**1-20**] acidemia/critical illness as above. ScVO2
   in CCU was 99 on evening of admission up from 87.
   - Repeat TTE once patient stabilized and is improved from current
   illness to access for any residual deficit
   - Hold antihypertensives for now, restart prn
   .
   # SVT w/ abberancy: Currently in sinus rhythm, HR 70's. At OSH was
   found to be tachycardic with wide complex tachycardia felt to be SVT
   with aberrancy based on 12 lead EKG. Pt was shocked x 1 at OSH and
   loaded with amiodarone upon transfer, since dc'd.
   - Continue to monitor on telemetry
   - Beta blockers as needed for rate control as BP tolerates; if no blood
   pressure room, consider restarting amiodarone
   .
   # Acute on chronic renal failure:  Baseline creatinine of around 1.4,
   now up to 2.7.  Patient had been oliguric, but now improved.  Likely in
   the setting of hypoperfusion given globally reduced EF and critical
   illness.
   - Continue to follow urine output, goal >20 cc/hr
   - Urine lytes/eos
   - Continue to trend creatinine
   - IVF prn to maintain UOP
   - Consider renal ultrasound if no improvement in creatinine in the
   morning
   .
   # DM type 2:  BS significantly elevated at OSH and in CCU.  Has been on
   insulin gtt since admission with blood sugars were trending up and
   insulin gtt restarted.  Initially, was concern for HHS given gap
   acidosis and elevated FS, though no glucosuria.
   - Will transition to home insulin regimen if possible overnight; per
   patient, she takes 35/40 NPH and humalog SS.
   .
   # AG acidosis: GAP now resolved.  Initial lactate at OSH was 7, now
   wnl.  Concern for HHS, though no glucosuria or other metabolic
   derangements.  Serum B hydroxybuterate pending. Pt is s/p 1 amp sodium
   bicarb at OSH.
   - Continue empiric treatment for sepsis as above with continued
   supportive care
   - Continue to follow chem panel, gap/bicarb.
   .
   # Transaminitis: Pt with elevated transaminases on admission, likely
   consistent with global critical illness and possibly related to shock
   liver/hypoperfusion.
   - Continue trending LFTs and coags for now
   - Keep MAP > 65 to maintain end organ perfusion
   - Follow up final read of abd ultrasound done in CCU
   .
   # Leg pain: Patient had recent illness with negative work up. Per her
   son, has had significant pain not improved post rehab.  This had been a
   major concern of hers for the few days prior to this admission.  L knee
   was tapped during prior admission, consistent with arthritis.
   - Continue fentanyl while intubated for pain control
   - Consider repeat plain films
   - Will likely require additional PT, pain control once sedation
   wean/extubated
   .
   # FEN: Will initiate TF once available, nutrition recommendations
   appreciated. IVF boluses as needed as above.  Replete lytes prn
   .
   ACCESS: PIV's/IJ
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -GI ppx with lansoprazole
   CODE: Full (confirmed with son)
   DISPO: ICU for now
   CONTACT: [**Name (NI) **]- [**Name (NI) **] [**Name (NI) 2576**] [**Telephone/Fax (1) 7319**], Dtr [**Name (NI) 107**] (HCP)
   [**Telephone/Fax (1) 7320**]
   ICU Care
   Nutrition:
   Glycemic Control: Insulin gtt
   Lines:
   Multi Lumen - [**2194-6-13**] 05:01 PM
   18 Gauge - [**2194-6-13**] 05:02 PM
   20 Gauge - [**2194-6-13**] 05:02 PM
   Arterial Line - [**2194-6-14**] 12:09 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: lansoprazole
   VAP:  head of bed 30deg, oral care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU

2194-06-16 05:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2194-6-15**] 10:00 PM
 SPUTUM CULTURE - At [**2194-6-15**] 10:00 PM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2194-6-15**]
   10:00 PM
   A-line dislodged
   - pt put on PS - tolerated well per ABG
   - 1430 - pt on PS [**7-26**] and 25 of fentanyl - awake, doing well, trying to
   talk to son
   - restarted on beta blocker
   - started back on insulin sliding scale
   - MRSA screen ([**6-13**]) positive - pt now on contact precautions
   - culture results faxed from OSH - only growing e.coli and klebsiella
   pneumo in urine - both susceptible to cipro - left pt on cipro and d/c
   vanc and zosyn
   - pt's ABGs doing progressively better
   - 1830 - pt c/o nausea - started on zofran
   - pt getting SOB and anxious - switched back to AC
   - 2200 - pt almost extubated herself - now on AC with 10 of PEEP and on
   FiO2 of 70% - arterial line also came out in the process
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-6-13**] 06:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-15**] 12:00 PM
   Ciprofloxacin - [**2194-6-15**] 10:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2194-6-15**] 10:00 PM
   Metoprolol - [**2194-6-15**] 10:00 PM
   Furosemide (Lasix) - [**2194-6-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-16**] 05:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 64 (62 - 98) bpm
   BP: 108/42(59) {108/42(59) - 148/58(75)} mmHg
   RR: 18 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.2 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 12 (5 - 15)mmHg
   Total In:
                                                                  2,187 mL
                                                                    132 mL
   PO:
   TF:
                                                                    494 mL
                                                                      1 mL
   IVF:
                                                                  1,440 mL
                                                                    131 mL
   Blood products:
                                                                    253 mL
   Total out:
                                                                  1,340 mL
                                                                    300 mL
   Urine:
                                                                  1,340 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    847 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 425 (425 - 544) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/41/103/24/-1
   Ve: 8.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   329 K/uL
   9.0 g/dL
   166 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.4 mEq/L
   61 mg/dL
   104 mEq/L
   138 mEq/L
   26.4 %
   15.9 K/uL
        [image002.jpg]
                             [**2194-6-14**]  07:05 PM
                             [**2194-6-14**]  08:14 PM
                             [**2194-6-15**]  01:29 AM
                             [**2194-6-15**]  03:10 AM
                             [**2194-6-15**]  05:54 AM
                             [**2194-6-15**]  06:11 AM
                             [**2194-6-15**]  12:07 PM
                             [**2194-6-15**]  02:48 PM
                             [**2194-6-15**]  03:38 PM
                             [**2194-6-16**]  02:50 AM
   WBC
   13.2
   13.3
   14.2
   13.7
   15.9
   Hct
   23.4
   24.7
   24.4
   25.2
   26.4
   Plt
   [**Telephone/Fax (3) 7376**]97
   329
   Cr
   2.7
   2.7
   2.6
   2.5
   TropT
   2.39
   2.05
   TCO2
   23
   24
   23
   24
   25
   Glucose
   132
   133
   119
   166
   Other labs: PT / PTT / INR:12.5/27.2/1.1, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:140/108, Alk Phos / T Bili:193/0.6,
   Amylase / Lipase:143/15, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:569 IU/L, Ca++:8.2 mg/dL, Mg++:3.2 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   # Repiratory failure: Likely secondary to CHF.  CXR initially
   concerning for ARDS, though no clear etiology.  CXR this morning
   without clear infiltrate.  Per son, patient is "prone" to pneumonia, so
   this is most likely source of possible septic/distributive shock. Also,
   with significant leukocytosis which may be from infection vs stress
   reaction. Requiring PEEPs >10 to maintain oxygenation, but has been
   able to wean significantly since admission.  Patient was alert and
   awake on transfer to MICU, denies fever prior to admission, though son
   states she was "cold" on the days leading up to admission. Urine
   legionella negative.
   - Switch to pressure support and continue to wean down sedation.
   - Goal pH >7.3
   - Continue to treat for HCAP w/ zosyn, vanc, cipro as had been in house
   in [**Month (only) 8**] and rehab facility up until 3 weeks ago
   - Daily CXR
   - Trend WBC
   - Send sputum culture, follow up blood and urine cultures
   - Follow up cultures from OSH ([**Last Name (un) 2491**])
 Need to call their lab today.
   - Consider CT torso if no improvement to assess for
   intraabdominal/thoracic source of infection
   # Urosepsis
   # Coronary artery disease: Has history of CAD w/ DES to LAD, now with
   significant troponin leak in the setting of SVT w/ abberancy and shock
   at OSH.  Per cardiology, this is most likely not consistent w/ ACS and
   patient has completed 24H of heparin gtt. MBI not significantly
   elevated.  Likely myocardial stunning/ischemia in the setting of
   sepsis, critical illness and profound acidemia (lactate 7.0 at OSH).
   No clear new ischemic ECG changes.
   - Continue to trend CE until downtrending
   - Continue ASA daily
   - Continue statin
   - BB when HD stable.  Start at metoprolol 25mg [**Hospital1 **] and titrate as BP/HR
   tolerates.
   - Cards consult prn
   # Global LV systolic HF: Patient now w/ globally reduced EF on TTE with
   elevated CE as above.  Has history of dCHF.  Has been weaned off of
   levophed while in the CCU and has not required fluids to maintain CVP.
   BPs now stable.  Likely [**1-20**] acidemia/critical illness as above. ScVO2
   in CCU was 99 on evening of admission up from 87.
   - Repeat TTE once patient stabilized and is improved from current
   illness to access for any residual deficit
   .
   # SVT w/ abberancy: Currently in sinus rhythm, HR 70's. At OSH was
   found to be tachycardic with wide complex tachycardia felt to be SVT
   with aberrancy based on 12 lead EKG. Pt was shocked x 1 at OSH and
   loaded with amiodarone upon transfer, since dc'd.
   - Continue to monitor on telemetry
   - Beta blockers as needed for rate control as BP tolerates; if no blood
   pressure room, consider restarting amiodarone
   - suctioning has also been helpful in breaking pt
s SVT
   .
   # Acute on chronic renal failure:  Baseline creatinine of around 1.4,
   now up to 2.7.  Patient had been oliguric, but now improved.  Likely in
   the setting of hypoperfusion given globally reduced EF and critical
   illness.
   - Continue to follow urine output, goal >20 cc/hr
   - Urine lytes/eos
   - Continue to trend creatinine
   - IVF prn to maintain UOP
   - Consider renal ultrasound if no improvement in creatinine in the
   morning
   .
   # DM type 2:  BS significantly elevated at OSH and in CCU.  Has been on
   insulin gtt since admission with blood sugars were trending up and
   insulin gtt restarted.  Initially, was concern for HHS given gap
   acidosis and elevated FS, though no glucosuria.
   - now that pt is on tube feedings, attempt to wean down heparin gtt and
   then restart pt on her home insulin regimen
   .
   # AG acidosis: GAP now resolved.  Initial lactate at OSH was 7, now
   wnl.  Concern for HHS, though no glucosuria or other metabolic
   derangements.  Serum B hydroxybuterate pending. Pt is s/p 1 amp sodium
   bicarb at OSH.
   - Continue empiric treatment for sepsis as above with continued
   supportive care
   - Continue to follow chem panel, gap/bicarb.
   .
   # Transaminitis: Pt with elevated transaminases on admission, likely
   consistent with global critical illness and possibly related to shock
   liver/hypoperfusion.
   - Continue trending LFTs and coags for now
   - Keep MAP > 65 to maintain end organ perfusion
   - Follow up final read of abd ultrasound done in CCU
   .
   # Leg pain: Patient had recent illness with negative work up. Per her
   son, has had significant pain not improved post rehab.  This had been a
   major concern of hers for the few days prior to this admission.  L knee
   was tapped during prior admission, consistent with arthritis.
   - Continue fentanyl while intubated for pain control
   - Consider repeat plain films
   - Will likely require additional PT, pain control once sedation
   wean/extubated
   .
   # FEN: Will initiate TF once available, nutrition recommendations
   appreciated. IVF boluses as needed as above.  Replete lytes prn
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2194-6-13**] 05:01 PM
   18 Gauge - [**2194-6-13**] 05:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2194-06-16 10:16:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2194-6-15**] 10:00 PM
 SPUTUM CULTURE - At [**2194-6-15**] 10:00 PM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2194-6-15**]
   10:00 PM
   A-line dislodged
   OSH: e coli and klebs in urine- cpiro sensi
   Was on PSV 8/8 this PM- then nausea, then resp distress, then back on
   AC needing higher PEEP and FIO2 and CXR w ? evolving pulm edema
   Pulled out Art line
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-6-13**] 06:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-15**] 12:00 PM
   Ciprofloxacin - [**2194-6-15**] 10:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2194-6-15**] 10:00 PM
   Furosemide (Lasix) - [**2194-6-15**] 10:00 PM
   Metoprolol - [**2194-6-15**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2194-6-16**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-16**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 68 (59 - 98) bpm
   BP: 123/50(96) {103/41(55) - 148/58(96)} mmHg
   RR: 18 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.2 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 14 (5 - 16)mmHg
   Total In:
                                                                  2,187 mL
                                                                    303 mL
   PO:
   TF:
                                                                    494 mL
                                                                      1 mL
   IVF:
                                                                  1,440 mL
                                                                    257 mL
   Blood products:
                                                                    253 mL
   Total out:
                                                                  1,340 mL
                                                                    820 mL
   Urine:
                                                                  1,340 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    847 mL
                                                                   -517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 425 (425 - 528) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/41/103/24/-1
   Ve: 9.3 L/min
   PaO2 / FiO2: 172
   Physical Examination
    Gen: intubated but interactive
   HEENT: ETT
   CV: RR
   Chest: no wheeze, [**Month (only) 453**] BS both bases
   Abd: soft NT
   Ext: 2+ edema
   Neuro: shakjes head
   Labs / Radiology
   9.0 g/dL
   329 K/uL
   166 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.4 mEq/L
   61 mg/dL
   104 mEq/L
   138 mEq/L
   26.4 %
   15.9 K/uL
        [image002.jpg]
                             [**2194-6-14**]  07:05 PM
                             [**2194-6-14**]  08:14 PM
                             [**2194-6-15**]  01:29 AM
                             [**2194-6-15**]  03:10 AM
                             [**2194-6-15**]  05:54 AM
                             [**2194-6-15**]  06:11 AM
                             [**2194-6-15**]  12:07 PM
                             [**2194-6-15**]  02:48 PM
                             [**2194-6-15**]  03:38 PM
                             [**2194-6-16**]  02:50 AM
   WBC
   13.2
   13.3
   14.2
   13.7
   15.9
   Hct
   23.4
   24.7
   24.4
   25.2
   26.4
   Plt
   [**Telephone/Fax (3) 7376**]97
   329
   Cr
   2.7
   2.7
   2.6
   2.5
   TropT
   2.39
   2.05
   TCO2
   23
   24
   23
   24
   25
   Glucose
   132
   133
   119
   166
   Other labs: PT / PTT / INR:12.5/27.2/1.1, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:140/108, Alk Phos / T Bili:193/0.6,
   Amylase / Lipase:143/15, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:569 IU/L, Ca++:8.2 mg/dL, Mg++:3.2 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 TACHYCARDIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1.       Resp Failure: was on [**7-26**] then decompensated, npow back on AC-
   ? pullm edema, ? secretions. We will try again this AM on PSV. DDX
   either evolving VAP or she gets edema, or ischemic with efforts to
   wean.  Given potential secretions
 we will put back on Vanco/Zosyn and
   resend sputum.
   2.       CAD: new bivent dysfunction, ASA statin, bblocker, need Cards
   follow up, repeat Echo
 if we cannot wean it could be a more acute
   issue requiring max med magament vs cath but with Cr this high unlikely
   3.       SVT: on bblocker  - stable at this point
   4.       ARF: stable Cr today- watch UOP
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-6-13**] 05:01 PM
   18 Gauge - [**2194-6-13**] 05:02 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: chlorhex
   Communication:  son- will try to update today
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2194-06-17 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - vanc and zosyn started for ? HAP. Will tx with 7 days total.
   - PICC line ordered
   - obtained urine cx from OSH: ecoli and klebsiella sensitive to cipro
   (please refer to chart)
   - c/o SOB on vent but satting well with normal RR. seems agitated -->
   ordered low dose seroquel with good response
   - on PSV 8/10
   - pt w/ tachycardia to 120s with stable bp (systolic 130s-140s) -->
   received total of 7.5 mg IV metoprolol. Hr to 100-110.
   - Pt in af with RVR started on Diltiazem for rate control.
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-15**] 12:00 PM
   Vancomycin - [**2194-6-16**] 06:30 PM
   Ciprofloxacin - [**2194-6-16**] 08:04 PM
   Piperacillin - [**2194-6-17**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Diltiazem
   Other ICU medications:
   Aspirin
   Atorvastatin
   Chlorhexidine Gluconate Oral Rinse Ciprofloxacin
   Diltiazem
   Docusate Sodium
   Fentanyl Citrate
   Heparin
   Insulin
   Lansoprazole
   Lorazepam
   Metoprolol Tartrate
   Midazolam
   Ondansetron Piperacillin-Tazobactam
   Quetiapine Fumarate Senna
   Vancomycin
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-17**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 67 (59 - 83) bpm
   BP: 129/44(65) {103/41(55) - 147/77(96)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.2 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 8 (8 - 17)mmHg
   Total In:
                                                                  1,639 mL
                                                                    440 mL
   PO:
   TF:
                                                                    401 mL
                                                                    200 mL
   IVF:
                                                                  1,103 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    410 mL
   Urine:
                                                                  1,980 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -341 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 460 (433 - 516) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 18 cmH2O
   Plateau: 24 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/38/135/25/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: Alert, Intubated, no acute distress
   HEENT: Sclera anicteric, MMM
   Neck: supple, JVP difficult to asses, no LAD
   Lungs: Rhonchi throughout with rales at bases
   CV: Tachy, normal S1 + S2
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, 2+edema LE
   .
   Labs / Radiology
   319 K/uL
   8.4 g/dL
   86 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   59 mg/dL
   106 mEq/L
   141 mEq/L
   26.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2194-6-15**]  03:10 AM
                             [**2194-6-15**]  05:54 AM
                             [**2194-6-15**]  06:11 AM
                             [**2194-6-15**]  12:07 PM
                             [**2194-6-15**]  02:48 PM
                             [**2194-6-15**]  03:38 PM
                             [**2194-6-16**]  02:50 AM
                             [**2194-6-16**]  03:31 PM
                             [**2194-6-16**]  03:36 PM
                             [**2194-6-17**]  03:55 AM
   WBC
   13.3
   14.2
   13.7
   15.9
   10.3
   Hct
   24.7
   24.4
   25.2
   26.4
   26.0
   Plt
   273
   292
   297
   329
   319
   Cr
   2.7
   2.6
   2.5
   2.2
   TropT
   2.05
   TCO2
   23
   24
   25
   24
   Glucose
   133
   119
   166
   86
   Other labs: PT / PTT / INR:12.5/27.2/1.1, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:140/108, Alk Phos / T Bili:193/0.6,
   Amylase / Lipase:143/15, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:569 IU/L, Ca++:8.2 mg/dL, Mg++:3.2 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   74 year old female with known CAD, diastolic CHF, HTN, DM,
   dyslipidemia, presenting with respiratory failure requiring intubation,
   tachycardic with likely SVT with aberrancy, new reduced EF,
   leukocytosis, air space opacities on CXR, and relative hypotension
   concerning for distributive shock
   # Repiratory failure -  Pt
s respiratory failure is likely secondary to
   CHF.  However, she does also have a leukocytosis that could be due to
   infection or stress reaction.
   - Continue to trend WBC
 WBC down from 15.9->10.3 today.
   - Send sputum culture, follow up blood Cx as urine Cx from admission
   are negative and OSH Cx showed only e.coli/klebsiella both sensitive to
   Cipro.
   - Resume attempts to wean ventilator today by switching patient to
   pressure support
   -Patient needs to get a current ABG
   -Will gently diurese as CHF may represent stumbling block for
   extubation, 40IV lasix and f/u I/O
   # Urosepsis
 was able to obtain cultures form OSH, which showed only
   e.coli/klebsiella in the urine which were both sensitive to
   ciprofloxacin
   - will continue patient on ciprofloxacin
   - Urine cultures from [**Hospital1 5**] [**6-13**] and [**6-14**] both negative
   - Follow up blood and sputum cultures
 prelim sputum gram stain showed
   no organism
   # Coronary artery disease
 pt has a history of CAD and presented
   elevated troponin in the setting of SVT w/ abberancy and shock at OSH.
   Per cardiology, this is most likely not consistent w/ ACS.
   - Continue ASA daily
   - Continue statin
   - Pt was restarted on her beta blocker Monday.  Currently on metoprolol
   25 mg TID.  Will increase to 50mg TID.  Will continue to monitor BP and
   HR.
   - Make sure cards is following patient
   - Patient should be getting daily EKG
   # LV systolic HF-
   - Echo showed a decreased EF on the patient.
   - Consider repeat echo if unable to wean pt from vent
   - Send mixed venous O2 this afternoon.
   .
   # SVT w/ abberancy
   - patient is currently in sinus rhythm
   - SVT improved
 pt had no further issues with SVT overnight
   - Continue to monitor on telemetry
   - pt
s beta blocker has been restarted
   #A-fib w/ RVR -Unclear time of onset so rather than cardiovert will
   attempt rate control with Diltiazem.  Etiology could be [**1-20**] CHF/atrial
   stretch.
   - Diltiazem gtt started this AM.  Will follow and ensure BP can
   tolerate.
   - Will also anticoagulate (CHADS-2 = 4points) and her low EF places Pt
   at higher risk.  Will start heparin after PICC line placed and IJ d/c
   .
   # Acute on chronic renal failure -
   - Baseline creatinine of around 1.4, now at 2.2
   - This renal failure likely secondary to hypoperfusion/hypotension and
   critical illness
   - pt had a urine output of ~2 L yesterday
   - continue to monitor urinue output, BUN, and creatinine
   .
   # DM type 2 -
   - insulin drip was stopped yesterday morning and pt was put on sliding
   scale insulin
   - blood sugars have been well-controlled with sliding scale insulin
   - will continue to monitor BS
   .
   # AG acidosis -
   - AG is not within normal limits
   - continue to follow electrolytes daily
   .
   # Transaminitis -
   - likely secondary to hypotension/hypoperfusion and critical illness
   - AST and ALT peaked and are trending down; AP continues to be slightly
   elevated, so will follow
   - coag
s are now WNL
   - continue to monitor AST, ALT, and coags
   - abdominal u/s
 trace fluid in the RUQ, otherwise unremarkable
   .
   # Leg pain
   - pt had been complaining of L knee prior to this admission
 result of
   arthrocentesis were consistent with arthritis
   - obtain repeat films of the L knee and refer for PT once extubated out
   of the ICU
   .
   # FEN: Starting TF
s today.  Will replete electrolytes as needed.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin
   Lines:
   Multi Lumen - [**2194-6-13**] 05:01 PM
   18 Gauge - [**2194-6-13**] 05:02 PM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer:  Lansoprazole
   VAP:  oral care, head of bed elevated
   Comments:
   Communication:  Son:
   [**Name (NI) 156**] status: Full code
   Disposition: MICU

2194-06-17 10:12:00 Physician Attending Progress Note
Chief Complaint: resp failure, NSTEMI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2194-6-16**] 05:09 PM
 EKG - At [**2194-6-17**] 06:25 AM
   urine cx: e coli klebs
   SOB on vent but satting well
   low dose seroqeul overnight
   On PSV
   Afib with RVR on Dilt drip now
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-15**] 12:00 PM
   Vancomycin - [**2194-6-16**] 06:30 PM
   Ciprofloxacin - [**2194-6-16**] 08:04 PM
   Piperacillin - [**2194-6-17**] 06:02 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-6-17**] 12:48 AM
   Metoprolol - [**2194-6-17**] 06:26 AM
   Other medications:
   PPI, ASA, Lipitor, Lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-17**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 94 (61 - 122) bpm
   BP: 123/42(61) {106/42(59) - 147/77(83)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.5 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 11 (8 - 17)mmHg
   Total In:
                                                                  1,639 mL
                                                                    641 mL
   PO:
   TF:
                                                                    401 mL
                                                                    117 mL
   IVF:
                                                                  1,103 mL
                                                                    464 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    840 mL
   Urine:
                                                                  1,980 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -341 mL
                                                                   -199 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 401 (401 - 516) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.40/38/135/21/0
   Ve: 9.1 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Gen: intubated but interactive
   HEENT: ETT
   CV: RR, [**1-24**] sys murmur
   Chest: no wheeze, [**Month (only) 453**] BS both bases
   Abd: soft NT
   Ext: 2+ edema
   Neuro: shakes head
   Labs / Radiology
   8.4 g/dL
   319 K/uL
   129 mg/dL
   2.0 mg/dL
   21 mEq/L
   4.1 mEq/L
   54 mg/dL
   107 mEq/L
   139 mEq/L
   26.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2194-6-15**]  03:10 AM
                             [**2194-6-15**]  05:54 AM
                             [**2194-6-15**]  06:11 AM
                             [**2194-6-15**]  12:07 PM
                             [**2194-6-15**]  02:48 PM
                             [**2194-6-15**]  03:38 PM
                             [**2194-6-16**]  02:50 AM
                             [**2194-6-16**]  03:31 PM
                             [**2194-6-16**]  03:36 PM
                             [**2194-6-17**]  03:55 AM
   WBC
   13.3
   14.2
   13.7
   15.9
   10.3
   Hct
   24.7
   24.4
   25.2
   26.4
   26.0
   Plt
   273
   292
   297
   329
   319
   Cr
   2.7
   2.6
   2.5
   2.2
   2.0
   TropT
   2.05
   TCO2
   23
   24
   25
   24
   Glucose
   133
   119
   166
   86
   129
   Other labs: PT / PTT / INR:12.4/29.8/1.0, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:100/66, Alk Phos / T Bili:210/0.6,
   Amylase / Lipase:143/15, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:478 IU/L, Ca++:8.1 mg/dL, Mg++:2.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 TACHYCARDIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1.       Resp Failure: able to get back to PSV 8/10, good oxygenation,
   wean PEEP. mental status, try SBT and reassess. Volume up will diurese
   as below.
   2.       CAD: new bivent dysfunction, ASA statin, [**Doctor Last Name 7424**], Cards
   follow up, try diuresis today
 may repeat Echo if she can
t wean from
   vent to
   3.       SVT: on [**Doctor Last Name 7424**]  but Afib w rvr this AM, so added on Dilt
   drip. Push [**Last Name (LF) 7424**], [**First Name3 (LF) **] speak with Cards re role anticoag
   4.       ARF: resolving, watching UOP, renally dose meds
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: TFs
 off for possible ext.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-6-13**] 05:01 PM
 from OSH, get PICC take OUT.
   18 Gauge - [**2194-6-13**] 05:02 PM
   Prophylaxis:
   DVT: sc heparin
 prob IV drip
   Stress ulcer:
   VAP: chlorhex, HOB
   Communication:  with son
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2194-06-18 06:18:00 Physician Resident Progress Note
Chief Complaint: resp failure, NSTEMI, afib with rvr, urine cx e coli
   and klebsiella
   24 Hour Events:
   -Vent changed to pressure support [**7-23**] -> [**4-22**] tolerating well.  Plan to
   extubate in AM.
   -Started on Heparin gtt
   -Spoke with Cards Fellow.  Will load with amiodarone, then transition
   to 200mg PO BID x7 days, followed by 200mg daily until end of
   hospitalization/rehab if afib continues.
   -Adjusted Zosyn given improved renal function.
   -2130 Pt in sinus rhythm.  Will hold off on amiodarone and re-address
   if back into AF
   - back in AF with RVR, not resolved by suctioning.  Has been off dilt
   drip.
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-6-16**] 06:30 PM
   Ciprofloxacin - [**2194-6-16**] 08:04 PM
   Piperacillin - [**2194-6-17**] 06:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-18**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Metoprolol - [**2194-6-17**] 06:26 AM
   Furosemide (Lasix) - [**2194-6-17**] 09:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-18**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 116 (63 - 122) bpm
   BP: 140/59(74) {47/23(29) - 169/89(98)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.5 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 11 (9 - 13)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  1,592 mL
                                                                    408 mL
   PO:
   TF:
                                                                    117 mL
   IVF:
                                                                  1,055 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    960 mL
   Urine:
                                                                  3,170 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,578 mL
                                                                   -552 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 543 (401 - 543) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 10.1 L/min
   Physical Examination
   Gen: intubated but interactive
   HEENT: ETT
   CV: RR, [**1-24**] sys murmur
   Chest: no wheeze, [**Month (only) 453**] BS both bases
   Abd: soft NT
   Ext: 2+ edema
   Neuro: shakes head
   Labs / Radiology
   357 K/uL
   7.6 g/dL
   84 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   48 mg/dL
   105 mEq/L
   142 mEq/L
   23.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2194-6-15**]  05:54 AM
                             [**2194-6-15**]  06:11 AM
                             [**2194-6-15**]  12:07 PM
                             [**2194-6-15**]  02:48 PM
                             [**2194-6-15**]  03:38 PM
                             [**2194-6-16**]  02:50 AM
                             [**2194-6-16**]  03:31 PM
                             [**2194-6-16**]  03:36 PM
                             [**2194-6-17**]  03:55 AM
                             [**2194-6-18**]  04:33 AM
   WBC
   14.2
   13.7
   15.9
   10.3
   12.2
   Hct
   24.4
   25.2
   26.4
   26.0
   23.1
   Plt
   292
   297
   329
   319
   357
   Cr
   2.6
   2.5
   2.2
   2.0
   1.8
   TCO2
   23
   24
   25
   24
   Glucose
   119
   166
   86
   129
   84
   Other labs: PT / PTT / INR:13.5/108.9/1.2, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:100/66, Alk Phos / T Bili:210/0.6,
   Amylase / Lipase:143/15, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:478 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   74 year old female with known CAD, diastolic CHF, presenting with
   respiratory failure requiring intubation, now with tachycardia likely
   afib with rvr, new reduced EF, leukocytosis, air space opacities on
   CXR, and relative hypotension concerning for distributive shock.
   1.       Respiratory Failure
 resolving.  DDX includes cardiac
   stunning in the setting of her OSH event (SVT with aberrancy/NSTEMI)
   vs. dCHF/volume overload vs. SIRS/sepsis.  She has been on PS 5/5 SBT
   overnight, on which she is oxygenating and ventilating well.  Likely
   extubation today.  Volume up and was diuresed gently overnight.
   2.       CAD: new bivent dysfunction, ASA statin, bblocker, Cards
   follow up, try diuresis today
 may repeat Echo if she can
t wean from
   vent to assess vent function. Check SCVO2
   3.       SVT: on bblocker  but Afib w rvr this AM, so added on Dilt
   drip. Push bblocker, start anti coag since in and out x 72 hours.
   4.       ARF: resolving, watching UOP, renally dose meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2194-6-17**] 12:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 TACHYCARDIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1.       Resp Failure: able to get back to PSV 8/10, good oxygenation,
   wean PEEP., try SBT and reassess. Volume up will diurese gently since
   still recovering ARF
   2.       CAD: new bivent dysfunction, ASA statin, bblocker, Cards
   follow up, try diuresis today
 may repeat Echo if she can
t wean from
   vent to assess vent function. Check SCVO2
   3.       SVT: on bblocker  but Afib w rvr this AM, so added on Dilt
   drip. Push bblocker, start anti coag since in and out x 72 hours.
   4.       ARF: resolving, watching UOP, renally dose meds
   # Repiratory failure -  Pt
s respiratory failure is likely secondary to
   CHF.  However, she does also have a leukocytosis that could be due to
   infection or stress reaction.
   - Continue to trend WBC
 WBC down from 15.9->10.3 today.
   - Send sputum culture, follow up blood Cx as urine Cx from admission
   are negative and OSH Cx showed only e.coli/klebsiella both sensitive to
   Cipro.
   - Resume attempts to wean ventilator today by switching patient to
   pressure support
   -Patient needs to get a current ABG
   -Will gently diurese as CHF may represent stumbling block for
   extubation, 40IV lasix and f/u I/O
   # Urosepsis
 was able to obtain cultures form OSH, which showed only
   e.coli/klebsiella in the urine which were both sensitive to
   ciprofloxacin
   - will continue patient on ciprofloxacin
   - Urine cultures from [**Hospital1 5**] [**6-13**] and [**6-14**] both negative
   - Follow up blood and sputum cultures
 prelim sputum gram stain showed
   no organism
   # Coronary artery disease
 pt has a history of CAD and presented
   elevated troponin in the setting of SVT w/ abberancy and shock at OSH.
   Per cardiology, this is most likely not consistent w/ ACS.
   - Continue ASA daily
   - Continue statin
   - Pt was restarted on her beta blocker Monday.  Currently on metoprolol
   25 mg TID.  Will increase to 50mg TID.  Will continue to monitor BP and
   HR.
   - Make sure cards is following patient
   - Patient should be getting daily EKG
   # LV systolic HF-
   - Echo showed a decreased EF on the patient.
   - Consider repeat echo if unable to wean pt from vent
   - Send mixed venous O2 this afternoon.
   .
   # SVT w/ abberancy
   - patient is currently in sinus rhythm
   - SVT improved
 pt had no further issues with SVT overnight
   - Continue to monitor on telemetry
   - pt
s beta blocker has been restarted
   #A-fib w/ RVR -Unclear time of onset so rather than cardiovert will
   attempt rate control with Diltiazem.  Etiology could be [**1-20**] CHF/atrial
   stretch.
   - Diltiazem gtt started this AM.  Will follow and ensure BP can
   tolerate.
   - Will also anticoagulate (CHADS-2 = 4points) and her low EF places Pt
   at higher risk.  Will start heparin after PICC line placed and IJ d/c
   .
   # Acute on chronic renal failure -
   - Baseline creatinine of around 1.4, now at 2.2
   - This renal failure likely secondary to hypoperfusion/hypotension and
   critical illness
   - pt had a urine output of ~2 L yesterday
   - continue to monitor urinue output, BUN, and creatinine
   .
   # DM type 2 -
   - insulin drip was stopped yesterday morning and pt was put on sliding
   scale insulin
   - blood sugars have been well-controlled with sliding scale insulin
   - will continue to monitor BS
   .
   # AG acidosis -
   - AG is not within normal limits
   - continue to follow electrolytes daily
   .
   # Transaminitis -
   - likely secondary to hypotension/hypoperfusion and critical illness
   - AST and ALT peaked and are trending down; AP continues to be slightly
   elevated, so will follow
   - coag
s are now WNL
   - continue to monitor AST, ALT, and coags
   - abdominal u/s
 trace fluid in the RUQ, otherwise unremarkable
   .
   # Leg pain
   - pt had been complaining of L knee prior to this admission
 result of
   arthrocentesis were consistent with arthritis
   - obtain repeat films of the L knee and refer for PT once extubated out
   of the ICU
   .
   # FEN: Starting TF
s today.  Will replete electrolytes as needed.

2194-06-18 09:50:00 Physician Attending Progress Note
Chief Complaint: resp distress, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2194-6-17**] 12:22 PM
 MULTI LUMEN - STOP [**2194-6-17**] 04:42 PM
 EKG - At [**2194-6-17**] 09:24 PM
   went into NSR yesterday but flipped back into Af this AM
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-6-16**] 06:30 PM
   Ciprofloxacin - [**2194-6-16**] 08:04 PM
   Piperacillin - [**2194-6-17**] 06:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-18**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2194-6-17**] 09:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-18**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 111 (63 - 116) bpm
   BP: 151/70(87) {47/23(29) - 169/89(98)} mmHg
   RR: 27 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.5 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 11 (11 - 13)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  1,592 mL
                                                                    535 mL
   PO:
   TF:
                                                                    117 mL
   IVF:
                                                                  1,055 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                  1,500 mL
   Urine:
                                                                  3,170 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,578 mL
                                                                   -965 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 455 (425 - 543) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: VBG 7.34/51/38
   Ve: 7.1 L/min
   Physical Examination
    Gen: intubated but interactive, pulling at tubes
   HEENT: ETT
   CV: RR, [**1-24**] sys murmur
   Chest: no wheeze, [**Month (only) 453**] BS both bases
   Abd: soft NT
   Ext: 2+ edema
   Neuro: shakes head , squeezes hand to command
   Labs / Radiology
   7.6 g/dL
   357 K/uL
   84 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   48 mg/dL
   105 mEq/L
   142 mEq/L
   23.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2194-6-15**]  05:54 AM
                             [**2194-6-15**]  06:11 AM
                             [**2194-6-15**]  12:07 PM
                             [**2194-6-15**]  02:48 PM
                             [**2194-6-15**]  03:38 PM
                             [**2194-6-16**]  02:50 AM
                             [**2194-6-16**]  03:31 PM
                             [**2194-6-16**]  03:36 PM
                             [**2194-6-17**]  03:55 AM
                             [**2194-6-18**]  04:33 AM
   WBC
   14.2
   13.7
   15.9
   10.3
   12.2
   Hct
   24.4
   25.2
   26.4
   26.0
   23.1
   Plt
   292
   297
   329
   319
   357
   Cr
   2.6
   2.5
   2.2
   2.0
   1.8
   TCO2
   23
   24
   25
   24
   Glucose
   119
   166
   86
   129
   84
   Other labs: PT / PTT / INR:13.5/108.9/1.2, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:100/66, Alk Phos / T Bili:210/0.6,
   Amylase / Lipase:143/15, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:478 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 TACHYCARDIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1.       Resp Failure: able to get to [**4-22**] last PM, good oxygenation,
   diuresed well. RSBI 50- will extubate and maintain good rate pressure
   product control.
   2.       CAD: new bivent dysfunction, ASA statin, bblocker, Cards
   follow up, Echo this AM.
   3.       SVT: on bblocker  but Afib w rvr this AM, using bblocler but
   will Amio load. Continue heparin.
   4.       ARF: resolving, watching UOP, renally dose meds, will minimize
   diuresis from here and let kidneys recover on own unless needs to
   balance or from resp standpoint.
   5.       UTI: 1 more day ABX
   6.       HAP: Vanco/ZOsyn: Day [**2-22**]
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: TF off for extubation
   Glycemic Control:
   Lines:
   PICC Line - [**2194-6-17**] 12:22 PM
   Prophylaxis:
   DVT: heparin gtts
   Stress ulcer: PPI
   Communication:  with pt and son
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2194-06-19 09:56:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2194-6-18**] 09:45 AM
   Flash pulm edema - started Lasix, Nitro and BIPAP, Morphine
   7.47/29/69
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2194-6-16**] 08:04 PM
   Piperacillin - [**2194-6-17**] 06:02 AM
   Vancomycin - [**2194-6-18**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-19**] 04:01 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2194-6-18**] 10:08 PM
   Metoprolol - [**2194-6-19**] 08:00 AM
   Furosemide (Lasix) - [**2194-6-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-19**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 115 (72 - 115) bpm
   BP: 162/52(80) {125/44(70) - 199/72(103)} mmHg
   RR: 23 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.5 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  1,521 mL
                                                                    524 mL
   PO:
             TF:
   IVF:
                                                                  1,351 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                  3,840 mL
                                                                    950 mL
   Urine:
                                                                  3,840 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,319 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 475 (438 - 475) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 95%
   ABG: 7.47/29/69/24/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Gen: sitting in bed, off CPAP
   CV: tachy irreg
   Chest: bibasilar rales
   Abd: soft NT
   Ext: mild edema
   Neuro:
   Labs / Radiology
   8.8 g/dL
   432 K/uL
   176 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   41 mg/dL
   104 mEq/L
   142 mEq/L
   25.5 %
   18.5 K/uL
        [image002.jpg]
                             [**2194-6-15**]  02:48 PM
                             [**2194-6-15**]  03:38 PM
                             [**2194-6-16**]  02:50 AM
                             [**2194-6-16**]  03:31 PM
                             [**2194-6-16**]  03:36 PM
                             [**2194-6-17**]  03:55 AM
                             [**2194-6-18**]  04:33 AM
                             [**2194-6-18**]  03:23 PM
                             [**2194-6-18**]  10:41 PM
                             [**2194-6-19**]  03:30 AM
   WBC
   13.7
   15.9
   10.3
   12.2
   18.5
   Hct
   25.2
   26.4
   26.0
   23.1
   27.0
   25.5
   Plt
   297
   329
   319
   357
   432
   Cr
   2.6
   2.5
   2.2
   2.0
   1.8
   1.6
   TCO2
   25
   24
   22
   Glucose
   119
   166
   86
   129
   84
   176
   Other labs: PT / PTT / INR:13.5/77.5/1.2, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:100/66, Alk Phos / T Bili:210/0.6,
   Amylase / Lipase:143/15, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.6
   g/dL, LDH:478 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR: pulm edema
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 TACHYCARDIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yr old with resp failure, bivent CHF, AFib, UTI
   1.       Resp Failure: able to extubate yesterday but flash pulm edema
   last PM and ended up back on CPAP, will press on with diuresis, able to
   wean off BIPAP this AM but may need to go back on, try to wean Nitro,
   but use IV blous po agents to max rate pressure product
   2.       CAD: ASA bblocker statin add long acting nitrate and wean
   nitro drip as possible
   3.       SVT: Amio, switch to po, Continue heparin, start Coumadin
   4.           ARF: resolving, watching UOP, renally dose meds,
   5.           UTI: completing ABX,
   6.           HAP: Vanco/ZOsyn: Day [**6-24**]
   7.           leukocytosis: check c diff, watch trend and for fevers,
   cultire if spikes,
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: passed sppech and swallow
   Glycemic Control:
   Lines:
   PICC Line - [**2194-6-17**] 12:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication:  with pt and son
   [**Name (NI) 156**] status: Full code Disposition :ICU
   Total time spent:
   Patient is critically ill

2194-06-20 03:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - code status re-addressed: full code
   - d/c vanc and zosyn
   - hydralazine started
   - placed pt on Bipap at home 14/10 regimen (takes this at home)
   - diuresed with lasix
   - added amlodipine (home dose)
   - started coumadin
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2194-6-17**] 06:02 AM
   Vancomycin - [**2194-6-18**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-19**] 10:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2194-6-19**] 08:00 AM
   Furosemide (Lasix) - [**2194-6-20**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-20**] 03:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 85 (80 - 136) bpm
   BP: 162/55(81) {124/42(70) - 175/108(119)} mmHg
   RR: 22 (18 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.5 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  1,466 mL
                                                                     79 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    986 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                    200 mL
   Urine:
                                                                  2,580 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,114 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: CPAP mask , Other
   Ventilator mode: CPAP/PPS
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 92%
   ABG: ///28/
   Ve: 10.2 L/min
   Physical Examination
   Labs / Radiology
   432 K/uL
   8.8 g/dL
   168 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   37 mg/dL
   102 mEq/L
   140 mEq/L
   25.5 %
   18.5 K/uL
        [image002.jpg]
                             [**2194-6-15**]  03:38 PM
                             [**2194-6-16**]  02:50 AM
                             [**2194-6-16**]  03:31 PM
                             [**2194-6-16**]  03:36 PM
                             [**2194-6-17**]  03:55 AM
                             [**2194-6-18**]  04:33 AM
                             [**2194-6-18**]  03:23 PM
                             [**2194-6-18**]  10:41 PM
                             [**2194-6-19**]  03:30 AM
                             [**2194-6-19**]  06:02 PM
   WBC
   13.7
   15.9
   10.3
   12.2
   18.5
   Hct
   25.2
   26.4
   26.0
   23.1
   27.0
   25.5
   Plt
   297
   329
   319
   357
   432
   Cr
   2.6
   2.5
   2.2
   2.0
   1.8
   1.6
   1.6
   TCO2
   24
   22
   Glucose
   119
   166
   86
   129
   84
   176
   168
   Other labs: PT / PTT / INR:13.5/77.5/1.2, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:100/66, Alk Phos / T Bili:210/0.6,
   Amylase / Lipase:143/15, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:18.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.6 g/dL, LDH:478 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 TACHYCARDIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 year old female with known CAD, diastolic CHF, presenting with
   respiratory failure requiring intubation, now with tachycardia likely
   afib with rvr, new reduced EF, leukocytosis, air space opacities on
   CXR, and relative hypotension concerning for distributive shock.
   # Respiratory Failure
   - pt was extubated yesterday.
   - developed flash pulmonary edema overnight
 started on nitro drip,
   lasix bolus, morphine 2mg; also started on BiPap mask with PS 5 and
   PEEP 5
 tolerating well
   - wean pt off of BiPAP mask today
   - pt still with some crackles on exam today; more fluid on CXR compared
   to last night
 will give another 40 mg Lasix IV now and will give
   patient lasix boluses q8hrs to try to get fluid off
 goal I/O is
   negative 1.5L
   - repeat ABG today
   - currently on nitro drip at 1.5
 will put pt on Isosorbide
   Dinitrate 30 mg PO TID with the plan to wean down her nitro gtt and
   transition her to long-acting nitrates for d/c
   - pt has completed a 7 day course of vanc and zosyn, which would cover
   her for HAP
 will stop these abx today
   # Leukocytosis
   - WBC elevated today
 up to 18.5 (from 12.2).  Stress rxn from events
   of last night vs. infection
   - Blood cultures still pending; other cultures negative
   - Pt afebrile.
   - will continue to monitor WBC
   # CAD
 pt had new biventricular dysfunction in echo on [**6-13**]
   - pt is on ASA, statin, and a beta blocker
   - pt passed swallowing study
 will switch her back to her PO
   metoprolol dose (50 mg TID)
   - echo showed improvement compared to previous study
   - on ASA, statin, bblocker.
   # Episodes of Afib and SVT
   - pt is on a b-blocker
   - began loading patient with amiodarone
 should finish load this
   morning
 will need to address PO amiodarone dose
   - PTT 77.5
 within goal range
   - will begin pt on coumadin (5 mg PO daily)
   # ARF on CKD - resolving
   - Cr is at 1.6 (almost at baseline of 1.4)
   - Renally dose meds
   # DM type 2
   - on SSI
   # Transaminitis
 resolving, likely [**1-20**] hypoperfusion injury
   # Anemia
   - Hct fairly stable at 25.5
   - Will continue to monitor
   # FEN: NPO until swallowing study.  Will replete electrolytes as
   needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2194-6-17**] 12:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-06-21 05:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2194-6-20**] 08:43 AM
   [**6-20**]
   - Continued diuresing with goal of 1.5-2L negative
   - Dosed with additional lasix to achieve goal net neg. 2300hrs
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-6-18**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-19**] 10:00 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2194-6-20**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-21**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 70 (69 - 115) bpm
   BP: 140/51(71) {138/46(70) - 164/96(108)} mmHg
   RR: 23 (19 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  1,820 mL
                                                                    455 mL
   PO:
                                                                    890 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    930 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                    980 mL
   Urine:
                                                                  2,445 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -625 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   400 K/uL
   8.4 g/dL
   115 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.4 mEq/L
   34 mg/dL
   102 mEq/L
   141 mEq/L
   25.1 %
   17.7 K/uL
        [image002.jpg]
                             [**2194-6-16**]  03:36 PM
                             [**2194-6-17**]  03:55 AM
                             [**2194-6-18**]  04:33 AM
                             [**2194-6-18**]  03:23 PM
                             [**2194-6-18**]  10:41 PM
                             [**2194-6-19**]  03:30 AM
                             [**2194-6-19**]  06:02 PM
                             [**2194-6-20**]  04:32 AM
                             [**2194-6-20**]  08:07 PM
                             [**2194-6-21**]  03:50 AM
   WBC
   10.3
   12.2
   18.5
   17.7
   17.7
   Hct
   26.0
   23.1
   27.0
   25.5
   25.4
   25.1
   Plt
   [**Telephone/Fax (3) 7510**]19
   400
   Cr
   2.0
   1.8
   1.6
   1.6
   1.5
   1.4
   TCO2
   24
   22
   Glucose
   129
   84
   176
   168
   176
   115
   Other labs: PT / PTT / INR:15.1/99.9/1.3, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:47/34, Alk Phos / T Bili:153/0.5,
   Amylase / Lipase:143/15, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:18.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.6 g/dL, LDH:464 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 TACHYCARDIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 y/o female with known CAD, diastolic CHF, presenting with
   respiratory failure requiring intubation, now with tachycardia likely
   afib with rvr, new reduced EF, leukocytosis, air space opacities on
   CXR, and relative hypotension concerning for distributive shock.
   # Respiratory Failure
   - pt was extubated Wednesday and then develop flash pulmonary edema
   that night
   - pt was placed on home bipap regimen
   - continue to follow CXR
   - pt completed a 7 day course of vanc and zosyn, which would cover her
   for HAP
   - continue Lasix 40mg q8h
   - continue hydralazine and isosorbide dinatrate
 will increase
   hydralazine to 30 mg QID and then will recheck SBP in the evening
   - goal i/o: negative 1.5 to 2 L
   # Leukocytosis
   - WBC today 17.7 (down from 18.5).  Stress rxn from pulmonary edema vs.
   infection
   - Blood cultures from [**6-13**] negative; urine and sputum cultures negative
   as well
   - Pt afebrile.
   - will continue to monitor WBC and fever curve; reculture if WBC stays
   elevated or if clinical deterioration
   - will send stool for c.diff
   # Episodes of Afib
   - pt is on a b-blocker
   - amio loading dose continued
 began PO dosing
   - PTT 72.2
 within goal range; continue heparin gtt until INR in range
   - pt begun on coumadin yesterday
 INR is 1.1 (goal INR is [**1-21**])
 will
   up titrate in the next few days if not in range
   # CAD
 pt had new biventricular dysfunction in echo on [**6-13**]; echo [**6-18**]
   reported as improved
   - pt is on ASA, statin, and a beta blocker
   # ARF on CKD - resolving
   - Cr is at 1.5 (almost at baseline of 1.4)
   - Renally dose meds
   # DM type 2
   - on SSI
   # Transaminitis
 likely secondary to hypoperfusion
   - no acute issues
   # Anemia
   - Hct fairly stable at 25.4
   - Will continue to monitor
   # FEN: Will replete electrolytes as needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2194-6-17**] 12:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-06-22 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pan cultured [**2194-6-21**]
   - given lasix 80mg x 2 yesterday
   - pt now going in and out of a. fib more frequently and staying in a.
   fib longer
   - diuresing well (-1L yesterday)
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Atenolol
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-6-19**] 10:00 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2194-6-22**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-6-22**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 69 (68 - 127) bpm
   BP: 146/50(72) {124/36(62) - 167/84(94)} mmHg
   RR: 21 (14 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.4 kg (admission): 115 kg
   Height: 67 Inch
             Total In:
                                                                  1,611 mL
                                                                    304 mL
   PO:
                                                                  1,250 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    361 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                  1,130 mL
   Urine:
                                                                  2,655 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,044 mL
                                                                   -826 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   General
 resting in bed, NAD, on nasal BiPAP
   Chest
 bilat mid insp crackles (improved)
   CV 2-irreg rhythm, [**2-21**] holosyst murmur at apex
   Ext
 2+ edema
   Labs / Radiology
   451 K/uL
   8.6 g/dL
   124 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.1 mEq/L
   32 mg/dL
   103 mEq/L
   143 mEq/L
   24.9 %
   13.4 K/uL
        [image002.jpg]
                             [**2194-6-17**]  03:55 AM
                             [**2194-6-18**]  04:33 AM
                             [**2194-6-18**]  03:23 PM
                             [**2194-6-18**]  10:41 PM
                             [**2194-6-19**]  03:30 AM
                             [**2194-6-19**]  06:02 PM
                             [**2194-6-20**]  04:32 AM
                             [**2194-6-20**]  08:07 PM
                             [**2194-6-21**]  03:50 AM
                             [**2194-6-22**]  05:38 AM
   WBC
   10.3
   12.2
   18.5
   17.7
   17.7
   13.4
   Hct
   26.0
   23.1
   27.0
   25.5
   25.4
   25.1
   24.9
   Plt
   [**Telephone/Fax (2) 7518**]
   Cr
   2.0
   1.8
   1.6
   1.6
   1.5
   1.4
   1.3
   TCO2
   22
   Glucose
   129
   84
   176
   168
   176
   115
   124
   Other labs: PT / PTT / INR:17.9/50.0/1.6, CK / CKMB /
   Troponin-T:3388/27/2.05, ALT / AST:43/42, Alk Phos / T Bili:132/0.5,
   Amylase / Lipase:143/15, Differential-Neuts:77.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:8.0 %, Eos:3.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.8 g/dL, LDH:616 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.5
   mg/dL
   Xray
 cardiomegaly, diffuse pulm infiltrates c/w pulm edema, small
   pleural effusion R > L (improved from prior study)
   Micro
 blood, urine, picc line cx pending from [**6-21**]
   Assessment and Plan
 PULMONARY EDEMA
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 TACHYCARDIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 y/o female with known CAD, dCHF, presenting with respiratory failure
   requiring intubation, afib with rvr, leukocytosis, and pulm
   edema/infiltrates on CXR.
   # Respiratory Failure/pulm edema
   - now extubated and oxygenating well
   - on home BiPAP regimen at night, 2 L NC thru day
   - continue to follow CXR
   - pt completed course of abx HAP
   - I/O
 negative 1L yesterday.  Will cont aggressive IV diuresis today
   and switch to PO lasix tomorrow, if possible.
   - have increased BB to give better cardiac output to the kidneys
    - continue hydralazine and isosorbide dinatrate
   # Leukocytosis with left shift
   - WBC down to 13 (from 17), still afebrile.  LDH down.
   - Blood, urine, PICC line cx from [**6-21**] pending ([**6-16**] sputum neg)
   - off abx
   - no signs of infxn
   # Episodes of Afib
   - pt on lopressor 75 tid
   - on PO amio 200 [**Hospital1 **]
   - PTT 75 and at goal
   - increased coumadin to 7.5 mg daily; goal INR is [**1-21**] and INR 1.6 today
   - will check TSH
   # CAD
 pt had new biventricular dysfunction in echo on [**6-13**]; echo [**6-18**]
   reported as improved
   - pt is on ASA, statin, and a beta blocker
   # ARF on CKD - resolving
   - Cr is at 1.3 (baseline of 1.4)
   - Renally dose meds
   - check EPO level
   # DM type 2
   - on SSI
   # Transaminitis
   - AST, ALT, and ALP trending down
 consider MRCP if they bump again.
   LDH improving.
   # Anemia
   - Hct fairly stable at 25.1
   - Will continue to monitor
   # FEN: Will replete electrolytes as needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2194-6-17**] 12:22 PM
   Prophylaxis:
   DVT: heparin, coumadin
   Stress ulcer:
   VAP: off vent
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to cardiology